US07479488B2
1g (R)-2-(3,4-dibromo-phenyl)-1-hydroxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 210 mg (9 mmol) LiOH.6H2O in 40 mL water was added at RT to a solution of 3.64 g (5.83 mmol) of (R)-2-(3,4-dibromo-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 70 mL THF and the reaction mixture was stirred for 7 h at RT. The mixture was evaporated down i.vac., the residue was taken up in 100 mL water, 1 M HCl was added until an acid reaction was obtained, the precipitate was filtered off and dried in the vacuum drying chamber at 50° C. The product was reacted further without purification.

reactant | LiOH.6H2O | 9 mmol, 210 mg | O[Li].O.O.O.O.O.O
reactant | (R)-2-(3,4-dibromo-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 5.83 mmol, 3.64 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)Br)Br)C(=O)OCC)C=CC=C2 | C26H29Br2N3O5
solvent | water | 40 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (R)-2-(3,4-dibromo-phenyl)-1-hydroxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)Br)Br)C(=O)O)C=CC=C2 | C24H25Br2N3O5
